US07326791B2
3-chloro-N-[(1R)-1-(5-chloro-1H-benzimidazol-2-yl)-2-methoxyethyl]-4-(2,5-dihydropyrrol-1-ylcarbonyl)benzamide
Prepared analogously to Example 1g from 3-chloro-4-(2,5-dihydropyrrol-1-ylcarbonyl)benzoic acid, TBTU, diisopropylethylamine, and (1R)-1-(5-chloro-1H-benzimidazol-2-yl)-2-methoxyethyl amine in dimethylformamide. Yield: 87%; Rf value: 0.59 (silica gel; dichloromethane/methanol=95:5); C22H20Cl2N4O3 (459.33); mass spectrum: (M+H)+=459/461/463 (chlorine isotope) and (M−H)−=457/459/461 (chlorine isotope).

reactant | 3-chloro-4-(2,5-dihydropyrrol-1-ylcarbonyl)benzoic acid | ClC=1C=C(C(=O)O)C=CC1C(=O)N1CC=CC1 | C12H10ClNO3
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (1R)-1-(5-chloro-1H-benzimidazol-2-yl)-2-methoxyethyl amine | ClC1=CC2=C(NC(=N2)[C@H](COC)N)C=C1 | C10H12ClN3O
reactant | chlorine | ClCl | Cl2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | dichloromethane methanol | ClCCl.CO
product | 3-chloro-N-[(1R)-1-(5-chloro-1H-benzimidazol-2-yl)-2-methoxyethyl]-4-(2,5-dihydropyrrol-1-ylcarbonyl)benzamide | Yield: 87% | ClC=1C=C(C(=O)N[C@@H](COC)C2=NC3=C(N2)C=CC(=C3)Cl)C=CC1C(=O)N1CC=CC1 | C22H20Cl2N4O3
